US04647561
(b) 2,5-Dihydro-4-methyl-2-[2-(trifluoromethyl)phenyl]-1H-1,5-benzodiazepine-3-carboxylic acid, methyl ester
A solution of 3-[(2-aminophenyl)amino]-2-butenoic acid, methyl ester (2.50 g., 12.0 mmole) in anhydrous tetrahydrofuran (12 ml.) is treated with 2-(trifluoromethyl)benzaldehyde (1.74 g., 10.0 mmole) and acetic acid (0.2 ml.). The resulting reaction mixture is stirred at room temperature under argon for 24 hours. The solvent is removed and the resulting yellow solid is triturated with isopropyl ether to give 3.27 g. of an off-white product. Recrystallization from dichloromethane-isopropyl ether gives 2.39 g. of 2,5-dihydro-4-methyl-2-2-(trifluoromethyl)phenyl]-1H-1,5-benzodiazepine-3-carboxylic acid, methyl ester; m.p. 190°-192°. TLC (silica gel; acetone:hexanes, 35:65) Rf =0.47.

reactant | 3-[(2-aminophenyl)amino]-2-butenoic acid, methyl ester | 12.0 mmole, 2.50 g | NC1=C(C=CC=C1)NC(=CC(=O)OC)C | C11H14N2O2
reactant | 2-(trifluoromethyl)benzaldehyde | 10.0 mmole, 1.74 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
reactant | 1H-1,5-benzodiazepine-3-carboxylic acid, methyl ester | N1C=C(C=NC2=C1C=CC=C2)C(=O)OC | C11H10N2O2
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
product | 2,5-Dihydro-4-methyl-2-[2-(trifluoromethyl)phenyl]-1H-1,5-benzodiazepine-3-carboxylic acid, methyl ester | CC=1NC2=C(NC(C1C(=O)OC)C1=C(C=CC=C1)C(F)(F)F)C=CC=C2 | C19H17F3N2O2
